US06509335B1
Alternative Procedure for Preparing 2-(5-Bromo-2-methoxyphenyl)-2H-1,4-benzoxazin-3(4H)-one
To 2-bromo-2H-1,4-benzoxazin-3(4H)-one (I10) (1.40 g, 6.14 mmoles) in methylene chloride (20 mL) was added 4-bromoanisole and then tin (IV) chloride. Addition of tin (IV) chloride caused a brown solution to form. The solution was refluxed for 5 hours, diluted with methylene chloride (100 mL) and washed with water (2×50 mL). After drying over Magnesium sulphate the mixture was concentrated until the product (I11) precipitated (0.58 g). Concentration of the mother liquors and chromatography on silica gel afforded an additional amount of product (I11) (0.55 g).

reactant | 2-bromo-2H-1,4-benzoxazin-3(4H)-one | 6.14 mmoles, 1.40 g | BrC1OC2=C(NC1=O)C=CC=C2 | C8H6BrNO2
reactant | 4-bromoanisole | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | tin (IV) chloride | [Sn](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-Bromo-2-methoxyphenyl)-2H-1,4-benzoxazin-3(4H)-one | BrC=1C=CC(=C(C1)C1OC2=C(NC1=O)C=CC=C2)OC | C15H12BrNO3
